US04307077
Using the method of Example 1, the sodium salt of 2-hydroxy 1-methylnaphthalene can react with 1,12-dibromododecane to afford 1,12-bis(1-methyl-2-naphthoxy) dodecane.

reactant | sodium | [Na] | Na
reactant | 2-hydroxy 1-methylnaphthalene | OC1=C(C2=CC=CC=C2C=C1)C | C11H10O
reactant | 1,12-dibromododecane | BrCCCCCCCCCCCCBr | C12H24Br2
product | 1,12-bis(1-methyl-2-naphthoxy) dodecane | CC1=C(C=CC2=CC=CC=C12)OCCCCCCCCCCCCOC1=C(C2=CC=CC=C2C=C1)C | C34H42O2
